US04794188
Synthesis of 5-phenoxypentyl bromide
To a well-stirred suspension of sodium hydride (15.3 g, 0.32 mol; 50% oil dispersion) in dry DMF (500 ml) containing (25 g, 0.26 mol), was added dropwise 1,5-dibromopentane (122.3 g, 0.53 mol). After the addition was complete, the reaction mixture was stirred at 60°-70° C. for 4 hours. Most of the DMF was next removed under reduced pressure, and the residue was dissolved in ethyl acetate (250 ml). The organic extract was washed successively with a 5% sodium hydroxide solution, water and brine. After drying the organics over anhydrous magnesium sulfate, all volatiles were removed. The residual yellow liquid was then distilled under reduced pressure, and the pure product was collected at 118°-125° C./1 mm as a clear colorless liquid (26 g, 40% yield).

reactant | sodium hydride | 0.32 mol, 15.3 g | [H-].[Na+]
reactant | 1,5-dibromopentane | 0.53 mol, 122.3 g | BrCCCCCBr | C5H10Br2
reactant | DMF | 500 ml | CN(C)C=O | C3H7NO
product | 5-phenoxypentyl bromide | 26 g, 40% yield | O(C1=CC=CC=C1)CCCCCBr | C11H15BrO
